US07067517B2
Methyl-phenyl-carbamic acid 5-(2,5-dioxo-pyrrolidin-1-yl)-pyridin-2-yl ester
A solution of N-methyl-N-phenyl carbamoyl chloride (170 mg, 1.00 mmol), 1-(6-hydroxy-pyridin-3-yl)-pyrrolidine-2,5-dione (192 mg, 1.00 mmol) and 1,4-diazabicyclo[2,2,2]octane (112 mg, 1.00 mmol) in tetrahydrofuran (10 mL) was stirred at room temperature for 4 hours. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane 80:20) yielding the title compound (275 mg, 85% yield) as a white solid.

reactant | N-methyl-N-phenyl carbamoyl chloride | 1.00 mmol, 170 mg | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1-(6-hydroxy-pyridin-3-yl)-pyrrolidine-2,5-dione | 1.00 mmol, 192 mg | OC1=CC=C(C=N1)N1C(CCC1=O)=O | C9H8N2O3
reactant | 1,4-diazabicyclo[2,2,2]octane | 1.00 mmol, 112 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Methyl-phenyl-carbamic acid 5-(2,5-dioxo-pyrrolidin-1-yl)-pyridin-2-yl ester | 275 mg, 85% yield | O=C1N(C(CC1)=O)C=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C17H15N3O4
